US06743814B2
2 g of phosphorus oxychloride were added dropwise to a mixture of 1 g of 2-(3,4,4-trifluoro-3-butenylthio)oxazolidin-4-one and 0.35 g of pyridine under ice cooling and stirred at 70-80° C. for 3 hours. After addition of ice water to the reaction mixture and stirring for 30 minutes, the mixture was extractred with dichloromethane. The extracted layer was washed with water, dried with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography (eluent: dichloromethane) to obtain 0.7 g of 4-chloro-2-(3,4,4-trifluoro-3-butenylthio)oxazole (yield 65%). n20D=1.4813.

reactant | phosphorus oxychloride | 2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(3,4,4-trifluoro-3-butenylthio)oxazolidin-4-one | 1 g | FC(CCSC1OCC(N1)=O)=C(F)F | C7H8F3NO2S
reactant | pyridine | 0.35 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-chloro-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 0.7 g, yield 65% | ClC=1N=C(OC1)SCCC(=C(F)F)F | C7H5ClF3NOS
